US05292760
A stirred solution of 8 g of 2-amino-N-methyl-α-(3-methyl-2-thienyl)benzeneethanamine in 40 ml of N,N-dimethylformamide was treated with a solution of 6.41 g of N-chlorosuccinimide in 40 ml of N,N-dimethylformamide and then stirred at room temperature for 8 hours. Evaporation of the volatiles afforded an oil which was decanted into 100 ml of water, basified with 30 ml of 10% aqueous sodium hydroxide and extracted with dichloromethane (2×100 ml). The extract was washed with water (2×100 ml), dried over anhydrous sodium sulfate and concentrated. Thin layer chromatography of the resultant oil indicated a multicomponent mixture. Purification of the mixture was accomplished by successive HPLC separations (Water's Associates Prep LC/System 500, silica gel, elution with methanol). Concentration of the appropriate fractions afforded a residue which was dissolved in diethyl ether, filtered free of insolubles and concentrated. The resultant oil crystallized upon standing to yield 1.05 g of 2-amino-5-chloro-N-methyl-α-(3-methyl-2-thienyl)benzeneethanamine, mp 59°-61° C.

reactant | 2-amino-N-methyl-α-(3-methyl-2-thienyl)benzeneethanamine | 8 g | NC1=C(C=CC=C1)CC(NC)C=1SC=CC1C | C14H18N2S
reactant | N-chlorosuccinimide | 6.41 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-amino-5-chloro-N-methyl-α-(3-methyl-2-thienyl)benzeneethanamine | 1.05 g | NC1=C(C=C(C=C1)Cl)CC(NC)C=1SC=CC1C | C14H17ClN2S
